US04508909
To a solution of N-(2-hydroxyethyl)dithiocarbamic acid methyl ester (7.5 g) in pyridine (40 ml) is added triphenylmethyl chloride (15 g), and the mixture is left to stand overnight at room temperature. The reaction mixture is poured into water and extracted with ethyl acetate. The extract is washed with diluted hydrochloric acid and water, dried and concentrated to remove the solvent. The residue is crystallized from a mixture of dichloromethane and ether to give N-(2-triphenylmethoxyethyl)dithiocarbamic acid methyl ester (14.73 g).

reactant | N-(2-hydroxyethyl)dithiocarbamic acid methyl ester | 7.5 g | CSC(NCCO)=S | C4H9NOS2
reactant | triphenylmethyl chloride | 15 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-triphenylmethoxyethyl)dithiocarbamic acid methyl ester | 14.73 g | CSC(NCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=S | C23H23NOS2
